US07592477B2
Step a) Formation of N-(2-methoxybenzyl)-N-[4-(3-undecyl-1,2,4-oxadiazol-5-yl)benzyl]amine
The same procedure as employed in the preparation of Example 357 (step a) but using 4-(3-undecyl-1,2,4-oxadiazol-5-yl)benzaldehyde and 2-methoxybenzylamine gave the title compound as an oil. M+(LC/MS(ESI)): 450.5. HPLC (Condition A), Rt: 4.70 min (HPLC purity: 92.7%).

reactant | 4-(3-undecyl-1,2,4-oxadiazol-5-yl)benzaldehyde | C(CCCCCCCCCC)C1=NOC(=N1)C1=CC=C(C=O)C=C1 | C20H28N2O2
reactant | 2-methoxybenzylamine | COC1=C(CN)C=CC=C1 | C8H11NO
product | N-(2-methoxybenzyl)-N-[4-(3-undecyl-1,2,4-oxadiazol-5-yl)benzyl]amine | COC1=C(CNCC2=CC=C(C=C2)C2=NC(=NO2)CCCCCCCCCCC)C=CC=C1 | C28H39N3O2
